US07456164B2
Intermediate 62: N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)benzene-1,2-diamine
A solution of 2-nitro-N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)aniline (570 mg, 1.3 mmol) in ethanol (40 mL) was hydrogenated for 5 hours at room temperature at 50 psi in the presence of 10% Pd/C (60 mg, 10% w/w). The reaction mixture was filtered over Arbocel® and rinsed with ethanol. The filtrate was concentrated in vacuo to give the title compound as a gum, used without further purification (500 mg, 94%). HRMS ESI+ m/z 410.2791 [MH]+.

reactant | 2-nitro-N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)aniline | 1.3 mmol, 570 mg | [N+](=O)([O-])C1=C(NCC2(CCOCC2)C2=CC=C(C=C2)OCCCN2CCCC2)C=CC=C1 | C25H33N3O4
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | Pd/C | 60 mg | [Pd] | Pd
product | N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)benzene-1,2-diamine | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CNC=1C(=CC=CC1)N | C25H35N3O2
